US07557213B2
0.50 g (2.01 mmol) of 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester and 0.25 g (2.01 mmol) of 2,6-Dimethyl-pyridin-3-ylamine were heated at 100° C. for two hours. After cooling to room temperature 30 mL of diphenyl ether was added and heated at 250° C. for two hours. The reaction was allowed to cool to room temperature and hexane was added. The brown precipitate was collected by filtration to yield 45 mg of 3-(3,4-Dimethyl-benzoyl)-6,8-dimethyl-1H-[1,7]naphthyridin-4-one.

reactant | 2-(3,4-Dimethyl-benzoyl)-3-methoxy-acrylic acid methyl ester | 2.01 mmol, 0.50 g | COC(C(=COC)C(C1=CC(=C(C=C1)C)C)=O)=O | C14H16O4
reactant | 2,6-Dimethyl-pyridin-3-ylamine | 2.01 mmol, 0.25 g | CC1=NC(=CC=C1N)C | C7H10N2
reactant | diphenyl ether | 30 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | hexane | CCCCCC | C6H14
product | 3-(3,4-Dimethyl-benzoyl)-6,8-dimethyl-1H-[1,7]naphthyridin-4-one | 45 mg | CC=1C=C(C(=O)C2=CNC3=C(N=C(C=C3C2=O)C)C)C=CC1C | C19H18N2O2
